US07700634B2
Benzyl bromoacetate (500 mg, 2.18 mmol) was added to a mixture of pyrrolidine (171 mg, 2.40 mmol) and sodium carbonate (254 mg, 2.40 mmol) in tetrahydrofuran (7 ml). The mixture was stirred at room temperature for 18 h, then concentrated in vacuo. The residue was mixed with water (200 ml) and extracted with dichloromethane (3×100 ml). The organic layers were combined, dried over sodium sulfate and concentrated in vacuo. Purification by flash column chromatography eluting with 0-10% (v/v) methanol in dichloromethane afforded pyrrolidin-1-yl acetic acid benzyl ester (230 mg, 1.05 mmol).

reactant | Benzyl bromoacetate | 2.18 mmol, 500 mg | BrCC(=O)OCC1=CC=CC=C1 | C9H9BrO2
reactant | pyrrolidine | 2.40 mmol, 171 mg | N1CCCC1 | C4H9N
reactant | sodium carbonate | 2.40 mmol, 254 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
product | pyrrolidin-1-yl acetic acid benzyl ester | 1.05 mmol, 230 mg | C(C1=CC=CC=C1)OC(CN1CCCC1)=O | C13H17NO2
